US08227516B2
3-Cyclohexyl-acrylic acid ethyl ester:
to a cooled solution of oxalyl chloride (11.1 μL, 105 mmol) in dichloromethane (250 mL) was added at −78° C. a solution of dimethylsulfoxide (14.6 mL, 206 mmol) in dichloromethane (250 mL). After 5 min at the same temperature cyclohexylmethanol (10.8 mL, 87.5 mmol) and after additional 5 min triethylamine (60.7 mL, 438 mmol) were added. The reaction remained at −78° C. for two hours and then let warm to room temperature. The solvent was removed in vacuo. The resulting aldehyde was used for the next step without further purification. The crude cyclohexanecarbaldehyde was dissolved in toluene (200 mL) and ethanol (150 mL). After 15 min of stirring at 70° C. carbethoxy-methylene triphenylphosphorane (33.6 g, 96.5 mmol) was added in one portion. Stirring was continued for additional 24 hours. The solvent was removed in vacuo. The product was obtained by flash chromatography in 78% yield (12.5 g). 1H NMR (300 MHz, [D6-DMSO]: δ=1.07-1.34 (m, 8H, CH3 and cyclohexyl-CH2), 1.60-1.80 (m, 5H, cyclohexyl-CH2), 2.04-2.18 (m, 1H, cyclohexyl-CH); 4.16 (q, J=7.1 Hz, 2H, EtCH2), 5.74 (dd, J=15.8 Hz and J=1.5 Hz, 1H, C═C—H), 6.89 (dd, J=15.8 Hz and J=6.8 Hz, 1H, C═C—H).

reactant | oxalyl chloride | 105 mmol, 11.1 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 206 mmol, 14.6 mL | CS(=O)C | C2H6OS
reactant | cyclohexylmethanol | 87.5 mmol, 10.8 mL | C1(CCCCC1)CO | C7H14O
reactant | triethylamine | 438 mmol, 60.7 mL | C(C)N(CC)CC | C6H15N
reactant | carbethoxy-methylene triphenylphosphorane | 96.5 mmol, 33.6 g | C(=O)(OCC)C1=C(C=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C | C22H21O2P
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 3-Cyclohexyl-acrylic acid ethyl ester | 78% yield | C(C)OC(C=CC1CCCCC1)=O | C11H18O2
